US08703758B2
G) tert-butyl 4-[3-(acetylamino)butyl]piperidine-1-carboxylate
A solution of tert-butyl 4-(3-aminobutyl)piperidine-1-carboxylate (3.58 g) and acetic anhydride (4.13 g) in ethyl acetate (100 mL) was heated under reflux for 3 hr. The reaction mixture was allowed to cool to room temperature, washed with aqueous citric acid solution and saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (hexane/ethyl acetate) to give the title compound (2.65 g).

reactant | tert-butyl 4-(3-aminobutyl)piperidine-1-carboxylate | 3.58 g | NC(CCC1CCN(CC1)C(=O)OC(C)(C)C)C | C14H28N2O2
reactant | acetic anhydride | 4.13 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | tert-butyl 4-[3-(acetylamino)butyl]piperidine-1-carboxylate | 2.65 g | C(C)(=O)NC(CCC1CCN(CC1)C(=O)OC(C)(C)C)C | C16H30N2O3
